US08236826B2
Production of N-[2-(4-formylphenoxy)-5-pyridyl]-3,4-dichlorobenzamide
To a solution of 4-[(5-amino-2-pyridyl)oxy]benzaldehyde ethylene acetal (5.27 g, 20.4 mmol) and triethylamine (3.41 mL, 24.5 mmol) in THF (80 mL) was added dropwise a solution of 3,4-dichlorobenzoyl chloride (4.49 g, 21.4 mmol) in THF (30 mL) under ice cooling. The resulting solution was stirred for 2 hours at the same temperature. The reaction solution was concentrated under reduced pressure, to the residue, 80% acetic acid (55 mL) was added, and the mixture was heated at 80° C. with stirring for 1 hour. The reaction solution was concentrated under reduced pressure and to the residue was added water, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and evaporated. The obtained solid was recrystallized from isopropanol, to thereby yield 5.63 g of the title compound.

reactant | 4-[(5-amino-2-pyridyl)oxy]benzaldehyde ethylene acetal | 20.4 mmol, 5.27 g | C1COC(C2=CC=C(C=C2)OC2=NC=C(C=C2)N)O1 | C14H14N2O3
reactant | triethylamine | 24.5 mmol, 3.41 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorobenzoyl chloride | 21.4 mmol, 4.49 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-[2-(4-formylphenoxy)-5-pyridyl]-3,4-dichlorobenzamide | C(=O)C1=CC=C(OC2=NC=C(C=C2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1 | C19H12Cl2N2O3
